US06441177B1
A solution of 0.86 ml of diisopropylamine in 5 ml of THF is treated dropwise at 0° C. with 3.5 ml of 1.6M butyllithium in hexane. After 15 min. the mixture is cooled to −78° C. and 1.1 g of (E)-1-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-ethanone (Ex. Fa) in 3.9 ml of THF is added dropwise. After 1 hr. at −78° C. 0.7 ml of 3-methyl-2-butenal in 0.8 ml of THF is added dropwise. After 20 min. at −78° C. 0.86 ml of acetic acid in 4.6 ml of ether is added dropwise and the mixture is poured into saturated sodium bicarbonate solution/methylene chloride. The organic phase is dried and evaporated. After silica gel chromatography with (97.5%) methylene chloride/methanol the residue is dissolved in ethanol with 0.24 g of fumaric acid, evaporated and precipitated from methylene chloride with ethyl acetate/ether. There is obtained 0.64 g of (E)-(RS)-1-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-3-hydroxy-5-methyl-hex-4-en-1-one•fumarate (1:1), MS: m/e 362 (M+H+).

reactant | diisopropylamine | 0.86 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6M, 3.5 ml | C(CCC)[Li]
reactant | (E)-1-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-ethanone | 1.1 g | C(C=C)N(C/C=C/COC1=C(C=C(C=C1)C(C)=O)F)C | C16H20FNO2
reactant | 3-methyl-2-butenal | 0.7 ml | CC(=CC=O)C | C5H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 3.9 ml | C1CCOC1 | C4H8O
solvent | THF | 0.8 ml | C1CCOC1 | C4H8O
solvent | ether | 4.6 ml | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.86 ml | C(C)(=O)O | C2H4O2
product | (E)-(RS)-1-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-3-hydroxy-5-methyl-hex-4-en-1-one•fumarate | 0.64 g | C(C=C)N(C/C=C/COC1=C(C=C(C=C1)C(CC(C=C(C)C)O)=O)F)C.C(\C=C\C(=O)[O-])(=O)[O-] | InChI=1S/C21H28FNO3.C4H4O4/c1-5-10-23(4)11-6-7-12-26-21-9-8-17(14-19(21)22)20(25)15-18(24)13-16(2)3;5-3(6)1-2-4(7)8/h5-9,13-14,18,24H,1,10-12,15H2,2-4H3;1-2H,(H,5,6)(H,7,8)/p-2/b7-6+;2-1+
